US03998834
To a stirred solution of 13.2 parts of N-[1-(1-benzoylethyl)-4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide in 164 parts of methanol are added portionwise 1.34 parts of sodium borohydride (slightly exothermic reaction). Upon completion, stirring is continued first for 2 hours at 35° C and further overnight at room temperature. The reaction mixture is evaporated. The residue is taken up in 50 parts of water and the whole is warmed for a while. After cooling, the product is extracted three times with 75 parts of trichloromethane. The combined extracts are washed with water, dried, filtered and evaporated. The oily residue is purified twice by column-chromatography over silica-gel using a mixture of trichloromethane and 3% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The oily residue is triturated in petroleumether. The product is filtered off, crystallized from 2,2'-oxybispropane and a drop of 4-methyl-2-pentanone, filtered off again and dried at 110° C, yielding N-[1-(2-hydroxy-1 -methyl-2-phenylethyl)-4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide; mp. 154.2° C.

reactant | N-[1-(1-benzoylethyl)-4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide | C(C1=CC=CC=C1)(=O)C(C)N1CCC(CC1)(COC)N(C(CC)=O)C1=CC=CC=C1 | C25H32N2O3
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | N-[1-(2-hydroxy-1 -methyl-2-phenylethyl)-4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide | OC(C(C)N1CCC(CC1)(COC)N(C(CC)=O)C1=CC=CC=C1)C1=CC=CC=C1 | C25H34N2O3
